US06248740B1
Production of N-[6-[3-[4-(diphenylmethoxy)piperidino]propylamino]imidazo[1,2-b]pyridazine-2-carbonyl]glycine
0.810 g of N-[6-[3-[4-(diphenylmethoxy)piperidino]propylamino]imidazo[1,2-b]pyridazine-2-carbonyl]glycine ethyl ester was dissolved in 4 ml of ethanol; 2 ml of a 1 N aqueous solution of sodium hydroxide was added, followed by stirring at room temperature for 3 hours. The mixture was concentrated under reduced pressure; ice water and 2.1 ml of 1 N hydrochloric acid were added to the residue, followed by extraction with ethyl acetate-tetrahydrofuran (1:2); the extract was washed with saturated saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the residue was powdered by the addition of ethyl acetate, collected by filtration and washed with ethyl acetate to yield 0.183 g of the title compound.

reactant | N-[6-[3-[4-(diphenylmethoxy)piperidino]propylamino]imidazo[1,2-b]pyridazine-2-carbonyl]glycine ethyl ester | 0.810 g | C(C)OC(CNC(=O)C=1N=C2N(N=C(C=C2)NCCCN2CCC(CC2)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1)=O | C32H38N6O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | N-[6-[3-[4-(diphenylmethoxy)piperidino]propylamino]imidazo[1,2-b]pyridazine-2-carbonyl]glycine | 0.183 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCNC=1C=CC=2N(N1)C=C(N2)C(=O)NCC(=O)O)C2=CC=CC=C2 | C30H34N6O4
